US05290934
To 1-cyclopropyl-6-fluoro-7-bromo-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.2 g) is added thionyl chloride (2 ml) and the mixture is refluxed for 1 hour. After cooling, the reaction mixture is poured into ice-water and made alkaline with 10% aqueous sodium hydroxide solution. After stirring for 30 minutes, the resultant is extracted with dichloromethane. The aqueous layer is made acidic with 10% hydrochloric acid and then extracted with dichloroethane. The solvent is concentrated and the residue is recrystallized from acetic acid to give 1-cyclopropyl-6-fluoro-7-chloro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (80 mg), as white crystals, m.p. 258°-260° C.

reactant | 1-cyclopropyl-6-fluoro-7-bromo-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.2 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)Br)F)C)=O)C(=O)O | C14H11BrFNO3
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-cyclopropyl-6-fluoro-7-chloro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 80 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)Cl)F)C)=O)C(=O)O | C14H11ClFNO3
